* Z:\home\rahul\Downloads\Compressed\milestone3spice\milestone3_Final_Rahul.asc
Vbatt in 0 PWL(0 12.6 {t1} 12.6 {t1+0.1m} 9.6) Rser=0.05
Rload out 0 R=v(load)
Vcontrol1 control1 0 PWL(0 {Vref1_5V} {t1} {Vref1_5V} {t1+0.1m} {Vref1_20V}) Rser=100
Vcontrol2 control2 0 PWL(0 {Vref2_5V} {t1} {Vref2_5V} {t1+0.1m} {Vref2_20V}) Rser=100
Vload load 0 PWL(0 2.5 {t1} 2.5 {t1+0.1m} 8.9 {t2} 8.9 {t2+1u} 6.7)
M1 in N006 N004 N004 BSC0906NS
M2 N004 N012 0 0 BSC0906NS
M3 N002 N014 0 0 BSC093N04LS
M4 out N007 N002 N002 BSC0906NS
C1 out 0 47µ
L1 N004 N005 Hc=10 Br=0.12 Bs=0.33 A=0.000023 Lm=0.0394 Lg=1420u N=15 Rser=11.6m
XU1 N019 N001 N002 0 N009 driver Imax=3A Tdelay=30ns, IQ=1mA, Vuvl=8V
XU2 N015 N003 N004 0 N008 driver Imax=3A Tdelay=30ns, IQ=1mA, Vuvl=8V
R1 N007 N009 1
R2 N006 N008 1
XU3 in 0 N001 N002 aux_dcx n=1
C2 N001 N002 10µ
XU4 in 0 N003 N004 aux_dcx n=1
C3 N004 N003 10µ
XU5 N018 in 0 0 N011 driver Imax=3A Tdelay=30ns, IQ=1mA, Vuvl=8V
XU6 N010 in 0 0 N013 driver Imax=3A Tdelay=30ns, IQ=1mA, Vuvl=8V
R3 N014 N013 1
R4 N012 N011 1
XU7 N017 N015 N018 dead_time Td=30ns
XU8 N023 N010 N019 dead_time Td=30ns
XU9 N016 N017 PWM VM=5V, fs=400kHz Dmin=0.01, Dmax=0.99, Voffset=0
C4 in 0 47µ
R5 N028 N026 6.4k
R6 N026 N027 100k
C5 N026 N022 26.5p
C6 N027 N022 589.5p
XU11 control2 N026 in 0 N022 LT1215
R7 out N028 30k
R8 N028 0 10k
XU12 control1 N021 in 0 N016 LT1215
R9 N021 N020 100k
R10 N024 N021 23.4k
R11 N025 N024 2767
C7 N020 N016 0.53n
C8 N024 N021 0.99n
XU10 N022 Vs N023 ramp CPM_modulator fs=400kHz, Va=0.575 Vcmax=1.5, Dmin=0, Dmax=0.99, Voffset=0
XU14 N005 N002 in 0 Vs MAX4376 gain=20
R12 N002 N005 5m
R13 N025 0 3.32k
R14 out N025 16.6k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\rahul\My Documents\LTspiceXVII\lib\cmp\standard.mos
.lib switching.lib
.tran 0 {Tend} {Tskip} 10ns startup uic
.options reltol 0.0005
* 3-cell LiPo battery model
* 9.6-12.6. nominal 11.1
.param t1=1m t2=2m Tend=3m
.param Vref1_5V=0.834 Vref1_20V=5
.param Vref2_5V=0.001 Vref2_20V=5
* Control signals from the system power management microcontroller (up to two 0-5V analog signals)
* USB bus model
.param Ts=2.5u
******* define times for steady-state operation and transient
* OP1 steady state interval, 10 switching periods
.meas start_5V param {t1-Tskip-10*Ts}
.meas end_5V param {t1-Tskip}
* OP2x steady state interval, 10 switching periods
.meas start_20V param {Tend-Tskip-11*Ts}
.meas end_20V param {Tend-Tskip-Ts}
* step-load transient to OP2
.meas start_load_transient param {t2-Tskip}
.meas end_load_transient {Tend-Tskip-Ts}
****** dc bus voltages at operating points 1 and 2
.meas Vout_5V avg v(out) from start_5V to end_5V
.meas Vout_20V avg v(out) from start_20V to end_20V
****** battery and bus voltage ripples at operating point 2
.meas Vin_ripple_20V pp v(in) from start_20V to end_20V
.meas Vout_ripple_20V pp v(out) from start_20V to end_20V
****** efficiency at operating point 2
.meas Pin_20V avg -v(in)*i(Vbatt) from start_20V to end_20V
.meas Pout_20V avg v(out)*i(Rload) from start_20V to end_20V
.meas eff_20V param 100*Pout_20V/Pin_20V
****** minimum voltage after step load transient at t2
.meas Vout_20_min min v(out) from start_load_transient to end_load_transient
* Adjust these time parameters so that:\nAt t1 the converter is in steady state at OP1: 5V output\nAt t2 the converter is in steady state at 20V output, 2.25A\nStep load transient occurs at t2\nAt Tend the converter  is in steady state at OP2: 20V output. 3A
* Define switching period(s) Ts here
* Measurement commands
* Simulation commands (no need to change these)
* Define Vcontrol1 control levels for the 3 operating model
* Define Vcontrol2 control levels for the 3 operating model
* Simulation commands and parameters
* Power Electronics Specialization\nUniversity of Colorado Boulder
* Do not change the measurement commands
.param Tskip=0.5m
.lib LTC.lib
.backanno
.end
